US06251926B1
A mixture of ethyl Z-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (800 mg), 3-thienylboronic acid (224 mg), potassium carbonate (604 mg), toluene (20 ml), ethanol (2 ml) and water (2 ml) was stirred under an argon atmosphere for 30 minutes at room temperature. Tetrakis (triphenylphosphine)palladium (0) (101 mg) was added and the mixture was heated under reflux for 14 hours. The reaction mixture was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain an oil from a fraction eluted with ethyl acetate-hexane (1:3, v/v). This oil was dissolved in tetrahydrofuran (10 ml)-methanol (5 ml), and 1N aqueous solution of sodium hydroxide (5 ml) was added and the mixture was stirred for 2 hours at 40° C. 1N HCl (5.5 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate-hexane to obtain Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[4(3-thienyl)phenyl]acetic acid (442 mg, yield 58%) as pale-yellow crystals. m.p. 205-206° C. (decomposition)

reactant | ethyl Z-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 800 mg | BrC1=CC=C(C=C1)/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H25BrN2O5
reactant | 3-thienylboronic acid | 224 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 604 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[4(3-thienyl)phenyl]acetic acid | 442 mg, yield 58% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/C(=O)O)\C2=CC=C(C=C2)C2=CSC=C2)C=C1 | C30H24N2O5S
